US04581369
To a solution of 7 g of 5-(4-chlorobenzoyl)-2-(1-imidazolyl)pyridine in 60 ml of ethanol plus 10 ml of water is added 1 g of sodium borohydride. After the mixture is stirred at room temperature for an hour, the solvent is distilled off. To the residue is added water and the mixture is extracted with chloroform. After the chloroform is distilled off, the residue is recrystallized from a mixture of toluene and ethanol to give 6.5 g of α-(4-chlorophenyl)-2-(1-imidazolyl)-5-pyridinemethanol as white crystals, melting at 147°-149° C.

reactant | 5-(4-chlorobenzoyl)-2-(1-imidazolyl)pyridine | 7 g | ClC1=CC=C(C(=O)C=2C=CC(=NC2)N2C=NC=C2)C=C1 | C15H10ClN3O
reactant | sodium borohydride | 1 g | [BH4-].[Na+]
solvent | ethanol | 60 ml | C(C)O | C2H6O
solvent | water | 10 ml | O | H2O
product | α-(4-chlorophenyl)-2-(1-imidazolyl)-5-pyridinemethanol | 6.5 g | ClC1=CC=C(C=C1)C(O)C=1C=CC(=NC1)N1C=NC=C1 | C15H12ClN3O
